US07820675B2
Methyl 2,3-dihydro-1-benzofuran-7-carboxylate
2,3-Dihydrobenzofuran-7-carboxylic acid (8 g, 48.7 mmol) was dissolved in methanol (39.6 mL, 975 mmol) and concentrated sulfuric acid (2.6 mL, 48.7 mmol) was slowly added. The mixture was refluxed at 80° C. for 17 h. The solvent was evaporated and the residue was dissolved in ethyl acetate and washed with brine. The organic layer was evaporated to give the title compound as a beige solid. Yield: 8.6 g (99%). HPLC purity 93%, RT=1.72 min (System A; 10-97% MeCN over 3 min); 96%, RT=1.67 min (System B; 10-97% MeCN over 3 min). MS (ESI+) for C10H10O3 m/z 179 (M+H)+.

reactant | 2,3-Dihydrobenzofuran-7-carboxylic acid | 48.7 mmol, 8 g | O1CCC2=C1C(=CC=C2)C(=O)O | C9H8O3
reactant | methanol | 975 mmol, 39.6 mL | CO | CH4O
reactant | sulfuric acid | 48.7 mmol, 2.6 mL | S(O)(O)(=O)=O | H2O4S
product | Methyl 2,3-dihydro-1-benzofuran-7-carboxylate | O1CCC2=C1C(=CC=C2)C(=O)OC | C10H10O3
